US07538241B2
4-Ethylresorcinol (10 g, 73 mmol) was dissolved in acetone (250 mL), and potassium carbonate (30 g, 220 mmol) and allyl bromide (15 mL, 170 mmol) were added thereto and heated under reflux for 4 hours. The reaction mixture was cooled to room temperature, then filtered through Celite, and the filtrate was concentrated under reduced pressure. The resulting residue was purified through silica gel column chromatography (ethyl acetate/n-hexane=1/9) to obtain 2,4-bis(allyloxy)-1-ethylbenzene (15 g, 95%).

reactant | 4-Ethylresorcinol | 73 mmol, 10 g | C(C)C1=C(C=C(O)C=C1)O | C8H10O2
reactant | potassium carbonate | 220 mmol, 30 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 170 mmol, 15 mL | C(C=C)Br | C3H5Br
reactant | acetone | 250 mL | CC(=O)C | C3H6O
product | 2,4-bis(allyloxy)-1-ethylbenzene | 15 g, 95% | C(C=C)OC1=C(C=CC(=C1)OCC=C)CC | C14H18O2
